US03931408
2-(1-butin-3-yloxy)phenol
A solution of 247 parts of p-toluenesulphonic acid-1-butin- 3-yl ester in 200 parts by volume of acetone is dropped at 50°C into a suspension of 110 parts of pyrocatechol, 152 parts of anhydrous potassium carbonate and 166 parts of potassium iodide in 100 parts by volume of acetone. The mixture is refluxed for 2 days, then filtered and evaporated. The residue is taken up in 500 parts by volume of ether, washed with water and with 450 parts by volume of sodium hydroxide solution of 20 % strength. The alkaline extract, together with the partially precipitated sodium salt of the product, is acidified with semidilute hydrochloric acid while being cooled with ice. The product is obtained by extracting this solution with chloroform and evaporating the extract. For purification it is distilled under a high vacuum. Boiling point: 63° to 66°C under 0.07 mm Hg. The distillate crystallises; it melts at 52° to 54°C.

reactant | p-toluenesulphonic acid-1-butin- 3-yl ester | C#CC(C)OS(=O)(=O)C1=CC=C(C=C1)C | C11H12O3S
reactant | pyrocatechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-(1-butin-3-yloxy)phenol | C#CC(C)OC1=C(C=CC=C1)O | C10H10O2
